US06313094B1
[Process 1] Boc-Thz-piperidine
In a methylene chloride solution containing 300 mg of Boc-Thz-OH, 358 μl of triethylamine, 358 mg of 2-chloro-1,3-dimethylimidazolidinium hexafluorophosphate and 153 μl of piperidine were added under ice cooling and the resultant mixture was stirred for 14 hr. The reaction mixture was treated similarly to that in Example 33 (Process 3) to give 300 mg of the title compound.

reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | Boc-Thz-OH | 300 mg | N1([C@H](C(=O)O)CSC1)C(=O)OC(C)(C)C | C9H15NO4S
reactant | 2-chloro-1,3-dimethylimidazolidinium hexafluorophosphate | 358 mg | F[P-](F)(F)(F)(F)F.ClC1[NH+](CCN1C)C
reactant | piperidine | 153 μl | N1CCCCC1 | C5H11N
solvent | triethylamine | 358 μl | C(C)N(CC)CC | C6H15N
product | Boc-Thz piperidine | 300 mg | N1([C@H](C(=O)O)CSC1)C(=O)OC(C)(C)C.N1CCCCC1 | InChI=1S/C9H15NO4S.C5H11N/c1-9(2,3)14-8(13)10-5-15-4-6(10)7(11)12;1-2-4-6-5-3-1/h6H,4-5H2,1-3H3,(H,11,12);6H,1-5H2/t6-;/m0./s1
